US04581356
To a stirred solution of 1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin (17.7 g) and aluminum chloride (44.5 g) in 1,2-dichloroethane (26 ml) was added dropwise a solution of 2-phthalimidoacetyl chloride (25 g) in 1,2-dichloroethane (45 ml). The reaction mixture was stirred for 6 hours at 85° C. and then 22 hours at 60° C. After cooling, the mixture was poured into ice water and extracted with chloroform. The extract was washed successively with water, an aqueous solution of sodium bicarbonate and water, dried and evaporated. The residue was triturated with ethyl acetate and the resultant precipitates were collected by filtration, washed with ethyl acetate and dried to give 18.51 g of 1-methyl-2-oxo-6-phthalimidoacetyl-1,2,3,4-tetrahydroquinoline.

reactant | 1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin | 17.7 g | CN1C(CCC2=CC=CC=C12)=O | C10H11NO
reactant | aluminum chloride | 44.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-phthalimidoacetyl chloride | 25 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
solvent | 1,2-dichloroethane | 26 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 45 ml | ClCCCl | C2H4Cl2
product | 1-methyl-2-oxo-6-phthalimidoacetyl-1,2,3,4-tetrahydroquinoline | 18.51 g | CN1C(CCC2=CC(=CC=C12)C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)=O | C20H16N2O4
